US06967197B2
A solution of tert-butyl 2-[(S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetate (4.70 g) in formic acid (50 ml) was stirred for 2 hours at room temperature. The volatile was removed in vacuo and three evaporation from chloroform (30 ml) afforded 2-[((S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetic acid (4.60 g) as a pale yellow solid.

reactant | tert-butyl 2-[(S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetate | 4.70 g | C(C)C1=CC=C(C=C1)C1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)S(=O)(=O)CCC)CC(=O)OC(C)(C)C | C26H37NO6S3
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | ((S)-7-[5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-4-propanesulfonyl-1,4-thiazepin-7-yl]acetic acid | 4.60 g | C(C)C1=CC=C(C=C1)C1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)S(=O)(=O)CCC)CC(=O)O | C22H29NO6S3
